US07402595B2
2-(2,3-dihydrobenzofuran-5-ylmethyl)-6-fluoro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
2-(2,3-Dihydrobenzofuran-5-ylmethyl)-6-fluoro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid (800 mg) was dissolved in DMF (8 ml), and methyl iodide (0.24 ml) and potassium carbonate (530 mg) were added at room temperature. The mixture was stirred for 12 hrs. Water was added to the reaction mixture, and crystals were collected by filtration and washed with water. After drying the crystals, recrystallization (ethyl acetate) gave the title compound (500 mg).

reactant | 2-(2,3-Dihydrobenzofuran-5-ylmethyl)-6-fluoro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | 800 mg | O1CCC2=C1C=CC(=C2)CN2C(C1=CC=C(C=C1C(=C2C(=O)O)C2=CC=CC=C2)F)=O | C25H18FNO4
reactant | methyl iodide | 0.24 ml | CI | CH3I
reactant | potassium carbonate | 530 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 2-(2,3-dihydrobenzofuran-5-ylmethyl)-6-fluoro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 500 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)F)=O)CC=1C=CC2=C(CCO2)C1 | C26H20FNO4
